### PR TITLE
feat(Order): Eta sets and some related lemmas

### PR DESCRIPTION
**Pull request by YanYablonovskiy**
Adding Eta sets via `IsEta` and some core results.

### CODE REVIEW

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 1]
```diff
@@ -0,0 +1,293 @@
+module
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:6]: Copyright docstring missing

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 2]
```diff
@@ -0,0 +1,293 @@
...
+public import Mathlib.Order.CountableDenseLinearOrder
+public import Mathlib.Order.Types.Defs
+public import Mathlib.SetTheory.Ordinal.Basic
+
+namespace Order
+open Cardinal
+
+universe u v
+
+
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 3]
```diff
@@ -0,0 +1,293 @@
...
+greater than all elements of X and less than all elements of
+Y.
+In the literature, η_α := η_α (ℵ_α), but this definition is more general.
+-/
+
+def IsEta (α : Type u) (c : Cardinal.{u}) [LinearOrder α] : Prop :=
+  ∀ s t : Set α, #s < c → #t < c →
+    (∀ x ∈ s, ∀ y ∈ t, x < y) → ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y)
+
+
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 4]
```diff
@@ -0,0 +1,293 @@
...
+namespace Order
+open Cardinal
+
+universe u v
+
+
+@[expose] public section
+/--
+If α is an ordinal, and c is some cardinal, then an
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: This doesn't seem correct? `α` here is a type, not an ordinal.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 5]
```diff
@@ -0,0 +1,293 @@
...
+η_α (c) set is a totally ordered set in which for any two subsets
+X and Y of cardinality less than c, if every element of
+X is less than every element of Y then there is some element
+greater than all elements of X and less than all elements of
+Y.
+In the literature, η_α := η_α (ℵ_α), but this definition is more general.
+-/
+
+def IsEta (α : Type u) (c : Cardinal.{u}) [LinearOrder α] : Prop :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: This seems like a more natural ordering to me, putting "eta" right next to the cardinal.
```suggestion
def IsEta (c : Cardinal.{u}) (α : Type u) [LinearOrder α] : Prop :=
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 6]
```diff
@@ -0,0 +1,293 @@
...
+  ∀ s t : Set α, #s < c → #t < c →
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Perhaps?
```suggestion
  ∀ ⦃s t : Set α⦄, #s < c → #t < c →
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 7]
```diff
@@ -0,0 +1,293 @@
...
+/--
+If α is an ordinal, and c is some cardinal, then an
+η_α (c) set is a totally ordered set in which for any two subsets
+X and Y of cardinality less than c, if every element of
+X is less than every element of Y then there is some element
+greater than all elements of X and less than all elements of
+Y.
+In the literature, η_α := η_α (ℵ_α), but this definition is more general.
+-/
+
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:28]:
```suggestion
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 8]
```diff
@@ -0,0 +1,293 @@
...
+public import Mathlib.SetTheory.Ordinal.Basic
+
+namespace Order
+open Cardinal
+
+universe u v
+
+
+@[expose] public section
+/--
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:23]:
```suggestion

/--
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 9]
```diff
@@ -0,0 +1,293 @@
...
+public import Mathlib.Data.Finset.DenselyOrdered
+public import Mathlib.Order.CountableDenseLinearOrder
+public import Mathlib.Order.Types.Defs
+public import Mathlib.SetTheory.Ordinal.Basic
+
+namespace Order
+open Cardinal
+
+universe u v
+
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:22]: `IsEta` seems like a very vague thing to put in the root namespace. Maybe `Order.IsEta`?

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 10]
```diff
@@ -0,0 +1,293 @@
...
+open Order OrderType
+
+variable {α β γ : Type u} [LinearOrder α] [LinearOrder β] [LinearOrder γ] {c c' : Cardinal.{u}}
+
+theorem exists_between (h : IsEta α c) {s t : Set α} (hs : #s < c) (ht : #t < c)
+    (hB : ∀ x ∈ s, ∀ y ∈ t, x < y) : ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y) :=
+  h s t hs ht hB
+
+theorem card_zero : IsEta α 0 := fun _ _ hs _ _ ↦
+  (hs.trans_le (Cardinal.zero_le _)).false.elim
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem zero : IsEta α 0 := fun _ _ hs ↦
  (not_lt_bot hs).elim
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 11]
```diff
@@ -0,0 +1,293 @@
...
+
+theorem le_card (h : IsEta α c) (hc : c' ≤ c) : IsEta α c' :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem mono (h : IsEta α c) (hc : c' ≤ c) : IsEta α c' :=
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 12]
```diff
@@ -0,0 +1,293 @@
...
+  fun s t hs ht hB ↦ h s t (hs.trans_le hc) (ht.trans_le hc) hB
+
+theorem card_one [Nonempty α] : IsEta α 1 :=
+  fun s t hs ht _ ↦ by
+    simp only [Cardinal.lt_one_iff, Cardinal.mk_eq_zero_iff] at hs ht
+    exact ⟨‹Nonempty α›.some, by simp [Set.eq_empty_of_isEmpty], by simp [Set.eq_empty_of_isEmpty]⟩
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem one [Nonempty α] : IsEta α 1 :=
  fun s ↦ by simp +contextual [mk_eq_zero_iff]
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 13]
```diff
@@ -0,0 +1,293 @@
...
+
+theorem le_one (hc : c ≤ 1) [Nonempty α] : IsEta α c := le_card card_one hc
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: This seems somewhat redundant but if you want it:
```suggestion
protected theorem of_le_one (hc : c ≤ 1) [Nonempty α] : IsEta α c := le_card card_one hc
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 14]
```diff
@@ -0,0 +1,293 @@
...
+
+/-- If `α` is nonempty and `β` satisfies `IsEta β (#α)`, then `β` is nonempty. -/
+theorem nonempty_card {α β : Type u} [LinearOrder β] (hα : Nonempty α) (h : IsEta β (#α)) :
+    Nonempty β :=
+  have ⟨z, _, _⟩ : ∃ (z : β), (∀ x ∈ (∅: Set β), x < z) ∧ (∀ y ∈ (∅: Set β), z < y) := by
+    refine exists_between h ?_ ?_ ?_ <;> simp [pos_iff_ne_zero.2 (mk_ne_zero α)]
+  ⟨z⟩
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem nonempty (hc : c ≠ 0) (h : IsEta α c) : Nonempty α := by
  simpa [hc.pos] using h ∅ ∅
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 15]
```diff
@@ -0,0 +1,293 @@
...
+
+/-- The η property implies density when the cardinal is larger than 1. -/
+theorem denselyOrdered_of_IsEta (hc : 1 < c) (h : IsEta α c) : DenselyOrdered α :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem denselyOrdered (hc : 1 < c) (h : IsEta α c) : DenselyOrdered α :=
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 16]
```diff
@@ -0,0 +1,293 @@
...
+  ⟨fun x y hxy ↦ by
+    obtain ⟨z, hz⟩ :  ∃ z, (∀ _x ∈ ({x} :  Set α), _x < z) ∧ (∀ _y ∈ ({y} : Set α), z < _y) := by
+      refine exists_between h ?_ ?_ ?_ <;> simpa
+    exact ⟨z, hz.1 x rfl, hz.2 y rfl⟩ ⟩
+
+theorem noMinOrder_of_isEta (hc : 1 < c) (h : IsEta α c) [Nonempty α] : NoMinOrder α :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem noMinOrder (hc : 1 < c) (h : IsEta α c) : NoMinOrder α :=
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 17]
```diff
@@ -0,0 +1,293 @@
...
+  ⟨fun x ↦
+    have ⟨z, hz, hz₂⟩ : ∃ z, (∀ x ∈ (∅ :  Set α), x < z) ∧ (∀ y ∈ ({x} : Set α), z < y) := by
+      refine exists_between h ?_ ?_ ?_ <;> simp [hc,lt_trans zero_lt_one hc]
+    ⟨z, hz₂ x (Set.mem_singleton x)⟩⟩
+
+theorem noMaxOrder_of_isEta (hc : 1 < c) (h : IsEta α c) [Nonempty α] : NoMaxOrder α :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem noMaxOrder (hc : 1 < c) (h : IsEta α c) : NoMaxOrder α :=
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 18]
```diff
@@ -0,0 +1,293 @@
...
+  ⟨fun x ↦
+    have ⟨z, hz₁, hz₂⟩ : ∃z, (∀ _x ∈ ({x} : Set α), _x < z) ∧ ∀ y ∈ (∅ : Set α), z < y := by
+      refine exists_between h  ?_ ?_ ?_ <;> simp [lt_trans zero_lt_one hc,hc]
+    ⟨z, hz₁ x (Set.mem_singleton x)⟩⟩
+
+example [IsEmpty α] : NoMaxOrder α := inferInstance
+
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: ?
```suggestion
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 19]
```diff
@@ -0,0 +1,293 @@
...
+theorem noBotOrder_of_isEta (hc : 1 < c) (h : IsEta α c) [Nonempty α] : NoBotOrder α :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: These instances are implied from `NoMaxOrder` and `NoMinOrder` so I think they're redundant.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 20]
```diff
@@ -0,0 +1,293 @@
...
+
+theorem noTopOrder_of_isEta (hc : 1 < c) (h : IsEta α c) [Nonempty α] : NoTopOrder α :=
+  ⟨fun x ↦
+    have ⟨z, hz₁, _⟩ :∃z,(∀ _x ∈ ({x} : Set α), _x < z) ∧ ∀ y ∈ (∅ : Set α), z < y := by
+      refine exists_between h (s := {x}) (t := ∅) ?_ ?_ ?_ <;> simp [lt_trans zero_lt_one hc, hc]
+    ⟨z, not_le_of_gt (hz₁ x (Set.mem_singleton x))⟩⟩
+
+open Classical in
+/-- When `1 < c`, an `IsEta α c` linear order is nontrivial. -/
+theorem nontrivial_of_isEta (hc : 1 < c) (h : IsEta α c) [Nonempty α] : Nontrivial α := by
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem nontrivial (hc : 1 < c) (h : IsEta α c) : Nontrivial α := by
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 21]
```diff
@@ -0,0 +1,293 @@
...
+  obtain ⟨b⟩ := ‹Nonempty α›
+  obtain ⟨z, hbz, _⟩ :=
+    exists_between h (s := {b}) (t := ∅) (by simpa)
+    (by rw [mk_eq_zero]; exact bot_lt_iff_ne_bot.2 (ne_of_gt (lt_trans zero_lt_one hc))) (by simp)
+  exact nontrivial_of_lt b z (hbz b (Set.mem_singleton b))
+
+/-- Order-isomorphic linear orders satisfy `IsEta` for the same cardinal. -/
+theorem orderIso_isEta (e : α ≃o β) : IsEta α c = IsEta β c :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem congr (e : α ≃o β) : IsEta α c = IsEta β c :=
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 22]
```diff
@@ -0,0 +1,293 @@
...
+    (hB : ∀ x ∈ s, ∀ y ∈ t, x < y) :
+    ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y) := by
+  exact exists_between_finset_coe h (by simpa [mk_coe_finset]) (by simpa [mk_coe_finset]) hB
+
+lemma isEta_aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMinOrder α] : IsEta α aleph0 :=
+  fun s t hs ht hB ↦ by
+    rw [Cardinal.lt_aleph0_iff_finite] at *
+    exact Set.Finite.exists_between' hs ht hB
+
+lemma Rat.isEta_aleph0 : IsEta ℚ aleph0 := IsEta.isEta_aleph0
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
lemma Rat.isEta_aleph0 : IsEta ℚ aleph0 := .isEta_aleph0
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 23]
```diff
@@ -0,0 +1,293 @@
...
+      · grind [e.apply_symm_apply,(e.lt_iff_lt).mpr,(e.lt_iff_lt).mpr (hz₁ (e.symm x) ⟨x, hx, rfl⟩)]
+      · simpa [e.apply_symm_apply] using (e.lt_iff_lt).mpr (hz₂ (e.symm y) ⟨y, hy, rfl⟩)
+    · obtain ⟨z : β, hz₁ : ∀ x ∈ ⇑e '' s, x < z, hz₂ : ∀ y ∈ ⇑e '' t, z < y⟩ :=
+        by refine H (e '' s) (e '' t) ?_ ?_ ?_ <;> simpa [mk_image_eq e.injective]
+      refine ⟨e.symm z, fun x hx ↦ ?_, fun y hy ↦ ?_⟩
+      <;> rw [← e.lt_iff_lt, e.apply_symm_apply]
+      · exact hz₁ (e x) ⟨x, hx, rfl⟩
+      · exact hz₂ (e y) ⟨y, hy, rfl⟩
+
+lemma orderType_isEta_eq (h : type α = type β) : IsEta α c = IsEta β c :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Do you think a definition `OrderType.IsEta` might be a good idea?

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 24]
```diff
@@ -0,0 +1,293 @@
...
+  orderIso_isEta (type_eq_type.mp h).some
+
+/-- `IsEta` is unchanged under the order dual. -/
+theorem isEta_dual : IsEta αᵒᵈ c ↔ IsEta α c := by
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: You could also make a protected alias `IsEta.dual` for the ← direction.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 25]
```diff
@@ -0,0 +1,293 @@
...
+  refine ⟨fun H s t hs ht hB ↦ ?_, fun H s t hs ht hB ↦ ?_⟩
+  <;> obtain ⟨z, hz₁, hz₂⟩ := H t s ht hs fun x hx y hy ↦ hB y hy x hx
+  · exact ⟨z, fun x hx ↦ hz₂ x hx, fun y hy ↦ hz₁ y hy⟩
+  · exact ⟨z, fun x hx ↦ hz₂ x hx, fun y hy ↦ hz₁ y hy⟩
+
+theorem exists_between_finset_coe (h : IsEta α c) {s t : Finset α}
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: This seems kind of redundant? I think using `exists_between` should be enough.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 26]
```diff
@@ -0,0 +1,293 @@
...
+    ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y) :=
+  exists_between h hs ht fun x hx y hy ↦ hB x hx y hy
+
+theorem exists_between_finset (h : IsEta α c) {s t : Finset α}
+    (hs : (↑(s.card : ℕ) : Cardinal) < c) (ht : (↑(t.card : ℕ) : Cardinal) < c)
+    (hB : ∀ x ∈ s, ∀ y ∈ t, x < y) :
+    ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y) := by
+  exact exists_between_finset_coe h (by simpa [mk_coe_finset]) (by simpa [mk_coe_finset]) hB
+
+lemma isEta_aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMinOrder α] : IsEta α aleph0 :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem aleph0 [Nonempty α] [DenselyOrdered α] [NoMaxOrder α] [NoMinOrder α] : IsEta α aleph0 :=
```

File: CombinatorialGames/Mathlib/EtaSet.lean (hunk 22 above)
Comment (vihdzp) [reply CombinatorialGames/Mathlib/EtaSet.lean]: I don't like the `lemma` keyword all too much, but that's up to you.

**Review by vihdzp — COMMENTED** [review]
Thanks for working on this! I've left some initial remarks. Mostly minor style nits.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 27]
```diff
@@ -0,0 +1,293 @@
...
+
+lemma hhi_card {α β : Type u} {r : α → α → Prop} [LT α] [IsWellOrder α r]
+    (h : (#α).ord = Ordinal.type r) : ∀ a (g: ∀ y, r y a → β), #(hi (β := β) a g) < #α :=
+  fun a _ ↦ Cardinal.mk_range_le.trans_lt ((Cardinal.mk_subtype_le_of_subset
+    (fun _ hx ↦ hx.1)).trans_lt (card_subtype_le (h:=h) a))
+
+open Classical in
+/-- The map which will be an order embedding between `α` and `β`. -/
+@[reducible]
+noncomputable def f {α β : Type u} {r : α → α → Prop} [Nonempty α] [LinearOrder α]
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]: surely this should be private?

**Comment by vihdzp** [comment]
Just for context: I told Yan that they could PR this here, since it'd be useful for surreals (which are an η-univ set). And once we had the API nailed down, we could try downstreaming to Mathlib.

File: CombinatorialGames/Mathlib/EtaSet.lean (hunk 16 above)
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
theorem noMinOrder_of_isEta (hc : 1 < c) (h : IsEta α c) : NoMinOrder α :=
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 28]
```diff
@@ -0,0 +1,293 @@
...
+namespace Order
+open Cardinal
+
+universe u v
+
+
+@[expose] public section
+/--
+If α is an ordinal, and c is some cardinal, then an
+η_α (c) set is a totally ordered set in which for any two subsets
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Can we get some Lean code in this docstring? I don't understand what `η_α (c)` is supposed to mean. (I think it's supposed to be `IsEta α c`? But that can't be right because the types don't match.)

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 29]
```diff
@@ -0,0 +1,272 @@
...
+
+/--
+If `α` is a type with a `LinearOrder` , and `c` is some `Cardinal` in the same universe, then
+`IsEta c α` states that for any two subsets
+`X Y : Set α` of cardinality less than `c`, if every element of
+`X` is less than every element of `Y`, then there is some `(z : α)`
+greater than all elements of `X` and less than all elements of
+`Y`.
+
+In the literature, η_α would be an `α` such that `IsEta ℵ_α α` holds,
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Not really sure what this means. In the literature an \eta_\alpha set is what we'd here call an `IsEta \aleph_ \alpha` order.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 30]
```diff
@@ -0,0 +1,272 @@
...
+but this definition is more general.
+-/
+def IsEta (c : Cardinal.{u}) (α : Type u) [LinearOrder α] : Prop :=
+  ∀ ⦃s t : Set α⦄, #s < c → #t < c →
+    (∀ x ∈ s, ∀ y ∈ t, x < y) → ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y)
+
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:36]: Can you prove that `IsEta` is its own order dual? This is some incantation with `insert_to_dual_cast` or something like that... you should look at the docs around `Set.Ioo` for an example.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 31]
```diff
@@ -0,0 +1,272 @@
...
+  simpa [hc.pos] using @h ∅ ∅
+
+/-- The η property implies density when the cardinal is larger than 1. -/
+protected theorem denselyOrdered (hc : 1 < c) (h : IsEta c α) : DenselyOrdered α :=
+  ⟨fun x y hxy ↦ by
+    obtain ⟨z, hz⟩ :  ∃ z, (∀ _x ∈ ({x} :  Set α), _x < z) ∧ (∀ _y ∈ ({y} : Set α), z < _y) := by
+      refine exists_between h ?_ ?_ ?_ <;> simpa
+    exact ⟨z, hz.1 x rfl, hz.2 y rfl⟩ ⟩
+
+protected theorem noMinOrder (hc : 1 < c) (h : IsEta c α) : NoMinOrder α :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: And assuming that works, this should also work:
```suggestion
@[to_dual]
protected theorem noMinOrder (hc : 1 < c) (h : IsEta c α) : NoMinOrder α :=
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 32]
```diff
@@ -0,0 +1,272 @@
...
+/-- When `1 < c`, an `IsEta c α` linear order is nontrivial. -/
+protected theorem nontrivial (hc : 1 < c) (h : IsEta c α) [Nonempty α] : Nontrivial α := by
+  obtain ⟨b⟩ := ‹Nonempty α›
+  obtain ⟨z, hbz, _⟩ :=
+    exists_between h (s := {b}) (t := ∅) (by simpa)
+    (by rw [mk_eq_zero]; exact bot_lt_iff_ne_bot.2 (ne_of_gt (lt_trans zero_lt_one hc))) (by simp)
+  exact nontrivial_of_lt b z (hbz b (Set.mem_singleton b))
+
+/-- Order-isomorphic linear orders satisfy `IsEta` for the same cardinal. -/
+protected theorem congr (e : α ≃o β) : IsEta c α = IsEta c β :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem congr (e : α ≃o β) : IsEta c α \iff IsEta c β :=
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 33]
```diff
@@ -0,0 +1,272 @@
...
+open Classical in
+/-- When `1 < c`, an `IsEta c α` linear order is nontrivial. -/
+protected theorem nontrivial (hc : 1 < c) (h : IsEta c α) [Nonempty α] : Nontrivial α := by
+  obtain ⟨b⟩ := ‹Nonempty α›
+  obtain ⟨z, hbz, _⟩ :=
+    exists_between h (s := {b}) (t := ∅) (by simpa)
+    (by rw [mk_eq_zero]; exact bot_lt_iff_ne_bot.2 (ne_of_gt (lt_trans zero_lt_one hc))) (by simp)
+  exact nontrivial_of_lt b z (hbz b (Set.mem_singleton b))
+
+/-- Order-isomorphic linear orders satisfy `IsEta` for the same cardinal. -/
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:85]: You can probably golf this quite a bit if you first prove the implication as a private auxiliary theorem, then use that to prove both parts at once.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 34]
```diff
@@ -0,0 +1,272 @@
...
+    IsEta aleph0 α := fun s t hs ht hB ↦ by
+  rw [Cardinal.lt_aleph0_iff_finite] at *
+  exact Set.Finite.exists_between' hs ht hB
+
+theorem Rat.isEta_aleph0 : IsEta aleph0 ℚ := .aleph0
+
+variable {α β : Type u} [LinearOrder α] [LinearOrder β]
+
+/-- Given `IsEta #α β` and a countable `α` , `α` embeds into `β` with an order embedding. -/
+theorem OrderType.type_le_type_of_isEta_of_countable [Countable α] (h : IsEta (#α) β) :
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Isn't this a special case of the result you prove later down?

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 35]
```diff
@@ -0,0 +1,272 @@
...
+    haveI _ := h.nontrivial h1α
+    exact type_le_type (Order.embedding_from_countable_to_dense (α := α) (β := β)).some
+  · classical
+    have hβ := h.nonempty <| mk_ne_zero α
+    have hu : Subsingleton α := le_one_iff_subsingleton.1 hα1
+    let b : β := Classical.choice hβ
+    refine type_le_type (OrderEmbedding.ofStrictMono (fun _ : α => b) fun x y hxy ↦ ?_)
+    exact False.elim (lt_irrefl x (hxy.trans_eq (hu.elim y x)))
+
+section
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: I think it'd be easier to split this onwards into its own PR.

File: CombinatorialGames/Mathlib/EtaSet.lean (hunk 29 above)
Comment (YanYablonovskiy) [reply CombinatorialGames/Mathlib/EtaSet.lean]: In literature really means going off one of the easier to find  [sources](https://en.wikipedia.org/wiki/%CE%97_set) . There it calls an \eta_\alpha set a totally ordered set (here the appropriate type \alpha I guess) , such that the property holds (notwithstanding it is also less general using ordinals). 

So I guess I thought for it to make sense \eta_\alpha set has to be a type that has this property, rather than the property itself.

File: CombinatorialGames/Mathlib/EtaSet.lean (hunk 34 above)
Comment (YanYablonovskiy) [reply CombinatorialGames/Mathlib/EtaSet.lean]: It is indeed, I just thought it may be useful as a less involved proof as a lot less is needed (mechanistically\LoC speaking). Can be changed to be a special case.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 36]
```diff
@@ -0,0 +1,130 @@
...
+/--
+If `α` is a type with a `LinearOrder` , and `c` is some `Cardinal` in the same universe, then
+`IsEta c α` states that for any two subsets
+`X Y : Set α` of cardinality less than `c`, if every element of
+`X` is less than every element of `Y`, then there is some `(z : α)`
+greater than all elements of `X` and less than all elements of
+`Y`.
+
+In the literature, an η_α ordered set would be a `IsEta ℵ_α` order,
+but this definition is more general.
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Can you use a different letter here, since `α` is already used for the linear order

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 37]
```diff
@@ -0,0 +1,130 @@
...
+variable {α β γ : Type u} [LinearOrder α] [LinearOrder β] [LinearOrder γ] {c c' : Cardinal.{u}}
+
+@[simp]
+theorem isEta_def (c : Cardinal.{u}) (α : Type u) [LinearOrder α] : (∀ ⦃s t : Set α⦄, #s < c →
+#t < c → (∀ x ∈ s, ∀ y ∈ t, x < y) → ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y)) ↔ IsEta c α :=
+  Iff.of_eq rfl
+
+/-- `IsEta` is unchanged under the order dual. -/
+theorem isEta_dual (c : Cardinal.{u}) :  ∀ (α : Type u) [LinearOrder α], IsEta c α ↔ IsEta c αᵒᵈ :=
+  fun _ ↦ ⟨fun hη _ _ hs ht hst ↦
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
theorem isEta_dual (c : Cardinal.{u}) (α : Type u) [LinearOrder α] : IsEta c α ↔ IsEta c αᵒᵈ :=
  ⟨fun hη _ _ hs ht hst ↦
```
also we probably want `c` and `α` to be implicit here

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 38]
```diff
@@ -0,0 +1,130 @@
...
+    let ⟨z,hz⟩ := hη ht hs (fun x hT y hS ↦ hst y hS x hT); ⟨z, hz.symm⟩,
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
    let ⟨z, hz⟩ := hη ht hs (fun x hT y hS ↦ hst y hS x hT); ⟨z, hz.symm⟩,
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 39]
```diff
@@ -0,0 +1,130 @@
...
+  fun hη _ _ hs ht hst ↦
+    let ⟨z,hz⟩ := hη ht hs (fun x hT y hS ↦ hst y hS x hT); ⟨z, hz.symm⟩⟩
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
    let ⟨z, hz⟩ := hη ht hs (fun x hT y hS ↦ hst y hS x hT); ⟨z, hz.symm⟩⟩
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 40]
```diff
@@ -0,0 +1,130 @@
...
+
+protected alias ⟨_,dual⟩ := isEta_dual
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected alias ⟨_, dual⟩ := isEta_dual
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 41]
```diff
@@ -0,0 +1,130 @@
...
+
+to_dual_insert_cast IsEta := propext <| by
+  rw [isEta_def,isEta_dual]
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
  rw [isEta_def, isEta_dual]
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 42]
```diff
@@ -0,0 +1,130 @@
...
+
+/-- If `α` is nonempty and `β` satisfies `IsEta #α β`, then `β` is nonempty. -/
+protected theorem nonempty (hc : c ≠ 0) (h : IsEta c α) :
+    Nonempty α := by
+  simpa [hc.pos] using @h ∅ ∅
+
+/-- The η property implies density when the cardinal is larger than 1. -/
+protected theorem denselyOrdered (hc : 1 < c) (h : IsEta c α) : DenselyOrdered α :=
+  ⟨fun x y hxy ↦ by
+    obtain ⟨z, hz⟩ :  ∃ z, (∀ _x ∈ ({x} :  Set α), _x < z) ∧ (∀ _y ∈ ({y} : Set α), z < _y) := by
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
    obtain ⟨z, hz⟩ : ∃ z, (∀ _x ∈ ({x} : Set α), _x < z) ∧ (∀ _y ∈ ({y} : Set α), z < _y) := by
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 43]
```diff
@@ -0,0 +1,130 @@
...
+      refine exists_between h ?_ ?_ ?_ <;> simpa
+    exact ⟨z, hz.1 x rfl, hz.2 y rfl⟩ ⟩
+
+@[to_dual]
+protected theorem noMinOrder (hc : 1 < c) (h : IsEta c α) : NoMinOrder α :=
+  ⟨fun x ↦ by
+    obtain ⟨z, hz, hz₂⟩ : ∃ z, (∀ x ∈ (∅ :  Set α), x < z) ∧ (∀ y ∈ ({x} : Set α), z < y) := by
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
    obtain ⟨z, hz, hz₂⟩ : ∃ z, (∀ x ∈ (∅ : Set α), x < z) ∧ (∀ y ∈ ({x} : Set α), z < y) := by
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 44]
```diff
@@ -0,0 +1,130 @@
...
+  obtain ⟨z, hbz, _⟩ :=
+    exists_between h (s := {b}) (t := ∅) (by simpa)
+    (by rw [mk_eq_zero]; exact bot_lt_iff_ne_bot.2 (ne_of_gt (lt_trans zero_lt_one hc))) (by simp)
+  exact nontrivial_of_lt b z (hbz b (Set.mem_singleton b))
+
+private theorem of_isEta_iso (e : α ≃o β) : IsEta c α → IsEta c β := fun H s t hs ht hsep ↦ by
+  obtain ⟨z, hz₁, hz₂⟩ := by
+    refine @H (e.symm '' s) (e.symm '' t) ?_ ?_ (fun a ⟨x, hx, ((hex: e.symm x = a))⟩ b
+    ⟨y, hy, (hey : e.symm y = b)⟩ ↦ by
+      simpa [e.lt_iff_lt,←hex,←hey] using hsep x hx y hy) <;>
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
      ⟨y, hy, (hey : e.symm y = b)⟩ ↦ by
        simpa [e.lt_iff_lt,←hex,←hey] using hsep x hx y hy) <;>
```
These should be indented at least one level more so they are not on the same column as the tactics, I think two levels more is fine too.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 45]
```diff
@@ -39,6 +39,21 @@ open Order OrderType
 
 variable {α β γ : Type u} [LinearOrder α] [LinearOrder β] [LinearOrder γ] {c c' : Cardinal.{u}}
 
+/-- `IsEta` is unchanged under the order dual. -/
+theorem isEta_dual (c : Cardinal.{u}) :  ∀ (α : Type u) [LinearOrder α], IsEta c α ↔ IsEta c αᵒᵈ :=
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Both sides are basically the same proof, so presumably it's easier to first build the implication, and then the equivalence?

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 46]
```diff
@@ -0,0 +1,130 @@
...
+
+open Order OrderType
+
+variable {α β γ : Type u} [LinearOrder α] [LinearOrder β] [LinearOrder γ] {c c' : Cardinal.{u}}
+
+@[simp]
+theorem isEta_def (c : Cardinal.{u}) (α : Type u) [LinearOrder α] : (∀ ⦃s t : Set α⦄, #s < c →
+#t < c → (∀ x ∈ s, ∀ y ∈ t, x < y) → ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y)) ↔ IsEta c α :=
+  Iff.of_eq rfl
+
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: If you want to unfold the definition of `IsEta` you can just use something like `unfold IsEta` or `rw [IsEta]`.
```suggestion
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 47]
```diff
@@ -0,0 +1,130 @@
+/-
+Copyright (c) 2026 Yan Yablonovskiy. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yan Yablonovskiy
+-/
+module
+
+public import Mathlib.Analysis.Normed.Field.Lemmas
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Why are we importing normed fields?

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 48]
```diff
@@ -0,0 +1,130 @@
...
+
+protected theorem mono (h : IsEta c α) (hc : c' ≤ c) : IsEta c' α :=
+  fun _ _ hs ht hB ↦ h (hs.trans_le hc) (ht.trans_le hc) hB
+
+protected theorem one [Nonempty α] : IsEta 1 α :=
+  fun s ↦ by simp +contextual [mk_eq_zero_iff]
+
+/-- If `α` is nonempty and `β` satisfies `IsEta #α β`, then `β` is nonempty. -/
+protected theorem nonempty (hc : c ≠ 0) (h : IsEta c α) :
+    Nonempty α := by
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem nonempty (hc : c ≠ 0) (h : IsEta c α) : Nonempty α := by
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 49]
```diff
@@ -0,0 +1,130 @@
...
+  rw [isEta_def,isEta_dual]
+  rfl
+
+@[to_dual reorder]
+theorem exists_between (h : IsEta c α) {s t : Set α} (hs : #s < c) (ht : #t < c)
+    (hB : ∀ x ∈ s, ∀ y ∈ t, x < y) : ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y) :=
+  h hs ht hB
+
+protected theorem zero : IsEta 0 α := fun _ _ hs ↦
+  (not_lt_bot hs).elim
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem zero : IsEta 0 α :=
  fun _ _ hs ↦ (not_lt_bot hs).elim
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 50]
```diff
@@ -0,0 +1,130 @@
...
+
+@[to_dual]
+protected theorem noMinOrder (hc : 1 < c) (h : IsEta c α) : NoMinOrder α :=
+  ⟨fun x ↦ by
+    obtain ⟨z, hz, hz₂⟩ : ∃ z, (∀ x ∈ (∅ :  Set α), x < z) ∧ (∀ y ∈ ({x} : Set α), z < y) := by
+      refine exists_between h ?_ ?_ ?_ <;> simp [hc,lt_trans zero_lt_one hc]
+    exact ⟨z, hz₂ x (Set.mem_singleton x)⟩⟩
+
+open Classical in
+/-- When `1 < c`, an `IsEta c α` linear order is nontrivial. -/
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
/-- When `1 < c`, an `IsEta c` linear order is nontrivial. -/
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 51]
```diff
@@ -0,0 +1,130 @@
...
+  fun hη _ _ hs ht hst ↦
+    let ⟨z,hz⟩ := hη ht hs (fun x hT y hS ↦ hst y hS x hT); ⟨z, hz.symm⟩⟩
+
+protected alias ⟨_,dual⟩ := isEta_dual
+
+to_dual_insert_cast IsEta := propext <| by
+  rw [isEta_def,isEta_dual]
+  rfl
+
+@[to_dual reorder]
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
@[to_dual none]
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 52]
```diff
@@ -0,0 +1,130 @@
...
+protected theorem nonempty (hc : c ≠ 0) (h : IsEta c α) :
+    Nonempty α := by
+  simpa [hc.pos] using @h ∅ ∅
+
+/-- The η property implies density when the cardinal is larger than 1. -/
+protected theorem denselyOrdered (hc : 1 < c) (h : IsEta c α) : DenselyOrdered α :=
+  ⟨fun x y hxy ↦ by
+    obtain ⟨z, hz⟩ :  ∃ z, (∀ _x ∈ ({x} :  Set α), _x < z) ∧ (∀ _y ∈ ({y} : Set α), z < _y) := by
+      refine exists_between h ?_ ?_ ?_ <;> simpa
+    exact ⟨z, hz.1 x rfl, hz.2 y rfl⟩ ⟩
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem denselyOrdered (hc : 1 < c) (h : IsEta c α) : DenselyOrdered α where
  dense x y hxy := by simpa [hc, hxy] using @h {x} {y}
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 53]
```diff
@@ -0,0 +1,130 @@
...
+
+@[to_dual]
+protected theorem noMinOrder (hc : 1 < c) (h : IsEta c α) : NoMinOrder α :=
+  ⟨fun x ↦ by
+    obtain ⟨z, hz, hz₂⟩ : ∃ z, (∀ x ∈ (∅ :  Set α), x < z) ∧ (∀ y ∈ ({x} : Set α), z < y) := by
+      refine exists_between h ?_ ?_ ?_ <;> simp [hc,lt_trans zero_lt_one hc]
+    exact ⟨z, hz₂ x (Set.mem_singleton x)⟩⟩
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
protected theorem noMinOrder (hc : 1 < c) (h : IsEta c α) : NoMinOrder α where
  exists_lt x := by simpa [hc, hc.pos] using @h ∅ {x}
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 54]
```diff
@@ -0,0 +1,130 @@
...
+
+open Classical in
+/-- When `1 < c`, an `IsEta c α` linear order is nontrivial. -/
+protected theorem nontrivial (hc : 1 < c) (h : IsEta c α) [Nonempty α] : Nontrivial α := by
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: You can actually prove the stronger result that `α` is infinite via `NoMinOrder.infinite`.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 55]
```diff
@@ -0,0 +1,130 @@
...
+module
+
+public import Mathlib.Analysis.Normed.Field.Lemmas
+public import Mathlib.Data.Finset.DenselyOrdered
+public import Mathlib.Order.CountableDenseLinearOrder
+public import Mathlib.Order.Types.Defs
+public import Mathlib.SetTheory.Ordinal.Basic
+
+namespace Order
+open Cardinal
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:19]: Can you move this below `@[expose] public section`?

File: CombinatorialGames/Mathlib/EtaSet.lean (hunk 41 above)
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
to_dual_insert_cast IsEta := propext (isEta_dual c α)
```

File: CombinatorialGames/Mathlib/EtaSet.lean (hunk 47 above)
Comment (YanYablonovskiy) [reply CombinatorialGames/Mathlib/EtaSet.lean]: Just for 
```
theorem Rat.isEta_aleph0 : IsEta aleph0 ℚ := .aleph0
```
It was suggested by `#min_imports` , I then tried to get rid of it, first with `Mathlib.Algebra.Order.Ring.Unbundled.Rat` to get the `LinearOrder Rat` instance, but then it couldn't find `DenselyOrdered Rat` , and I couldn't figure out the chain of instances to import (and it seems it would mean even more imports).

Happy to try fix again.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 56]
```diff
@@ -0,0 +1,109 @@
...
+
+/--
+If `α` is a type with a `LinearOrder` , and `c` is some `Cardinal` in the same universe, then
+`IsEta c α` states that for any two subsets
+`X Y : Set α` of cardinality less than `c`, if every element of
+`X` is less than every element of `Y`, then there is some `(z : α)`
+greater than all elements of `X` and less than all elements of
+`Y`.
+
+In the literature, an η_γ ordered set would be a `IsEta ℵ_γ` order,
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Sorry to nitpick so much on this docstring, but `γ` looks a lot like `Y`. Can we change it to be more visually distinct? How about `o`, since it's an ordinal?
```suggestion
In the literature, an η_o ordered set would be a `IsEta ℵ_o` order,
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 57]
```diff
@@ -0,0 +1,109 @@
...
+
+@[expose] public section
+
+namespace Order
+open Cardinal
+
+universe u v
+
+/--
+If `α` is a type with a `LinearOrder` , and `c` is some `Cardinal` in the same universe, then
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
If `α` is a type with a `LinearOrder`, and `c` is some `Cardinal` in the same universe, then
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 58]
```diff
@@ -0,0 +1,109 @@
...
+    (∀ x ∈ s, ∀ y ∈ t, x < y) → ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y)
+
+namespace IsEta
+
+open Order OrderType
+
+variable {α β γ : Type u} [LinearOrder α] [LinearOrder β] [LinearOrder γ] {c c' : Cardinal.{u}}
+
+/-- `IsEta` is unchanged under the order dual. -/
+theorem isEta_dual {c : Cardinal.{u}} {α : Type u} [LinearOrder α] : IsEta c α ↔ IsEta c αᵒᵈ :=
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]: This theorem name, with the namespace, is `Order.IsEta.isEta_dual`, which seems a bit redundant.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 59]
```diff
@@ -0,0 +1,109 @@
...
+  by refine ⟨?_, ?_⟩ <;>
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
theorem isEta_dual {c : Cardinal.{u}} {α : Type u} [LinearOrder α] : IsEta c α ↔ IsEta c αᵒᵈ := by
  refine ⟨?_, ?_⟩ <;>
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 60]
```diff
@@ -0,0 +1,109 @@
...
+If `α` is a type with a `LinearOrder`, and `c` is some `Cardinal` in the same universe, then
+`IsEta c α` states that for any two subsets
+`X Y : Set α` of cardinality less than `c`, if every element of
+`X` is less than every element of `Y`, then there is some `(z : α)`
+greater than all elements of `X` and less than all elements of
+`Y`.
+
+In the literature, an η_o ordered set would be a `IsEta ℵ_o` order,
+but this definition is more general.
+-/
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:31]: Rewrapping:
```suggestion
If `α` is a type with a `LinearOrder`, and `c` is some `Cardinal` in the same universe, then
`IsEta c α` states that for any two subsets `X Y : Set α` of cardinality less than `c`, if every
element of `X` is less than every element of `Y`, then there is some `(z : α)` greater than all
elements of `X` and less than all elements of `Y`.

In the literature, an η_o ordered set would be a `IsEta ℵ_o` order, but this definition is more
general.
-/
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 61]
```diff
@@ -0,0 +1,109 @@
...
+protected theorem zero : IsEta 0 α :=
+  fun _ _ hs ↦ (not_lt_bot hs).elim
+
+protected theorem mono (h : IsEta c α) (hc : c' ≤ c) : IsEta c' α :=
+  fun _ _ hs ht hB ↦ h (hs.trans_le hc) (ht.trans_le hc) hB
+
+protected theorem one [Nonempty α] : IsEta 1 α :=
+  fun s ↦ by simp +contextual [mk_eq_zero_iff]
+
+/-- If `α` is nonempty and `β` satisfies `IsEta #α β`, then `β` is nonempty. -/
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: This docstring uses different variable names than the theorem, so it ends up being more confusing than helpful imo. I think this statement is simple enough that it doesn't need a docstring.
```suggestion
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 62]
```diff
@@ -0,0 +1,109 @@
...
+protected theorem nonempty (hc : c ≠ 0) (h : IsEta c α) : Nonempty α := by
+  simpa [hc.pos] using @h ∅ ∅
+
+/-- The η property implies density when the cardinal is larger than 1. -/
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: This docstring is perfectly fine, but I don't think this says anything that can't be immediately gleaned from the type signature.
```suggestion
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 63]
```diff
@@ -0,0 +1,109 @@
...
+protected theorem denselyOrdered (hc : 1 < c) (h : IsEta c α) : DenselyOrdered α where
+  dense x y hxy := by simpa [hc, hxy] using @h {x} {y}
+
+@[to_dual]
+protected theorem noMinOrder (hc : 1 < c) (h : IsEta c α) : NoMinOrder α where
+  exists_lt x := by simpa [hc, hc.pos] using @h ∅ {x}
+
+/-- When `1 < c`, an `IsEta c` linear order is infinite. -/
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Same here.
```suggestion
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 64]
```diff
@@ -0,0 +1,109 @@
...
+Authors: Yan Yablonovskiy
+-/
+module
+
+public import Mathlib.Analysis.Normed.Field.Lemmas
+public import Mathlib.Data.Finset.DenselyOrdered
+public import Mathlib.Order.CountableDenseLinearOrder
+public import Mathlib.Order.Interval.Set.Infinite
+public import Mathlib.Order.Types.Defs
+public import Mathlib.SetTheory.Ordinal.Basic
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]: Did my best to minimize imports:
```suggestion
public import Mathlib.Algebra.Field.Rat
public import Mathlib.Order.Types.Defs
public import Mathlib.SetTheory.Ordinal.Basic

import Mathlib.Algebra.Order.Field.Basic
import Mathlib.Algebra.Order.Ring.Rat
import Mathlib.Data.Finset.DenselyOrdered
import Mathlib.Order.Interval.Set.Infinite
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 65]
```diff
@@ -0,0 +1,109 @@
...
+    (∀ x ∈ s, ∀ y ∈ t, x < y) → ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y)
+
+namespace IsEta
+
+open Order OrderType
+
+variable {α β γ : Type u} [LinearOrder α] [LinearOrder β] [LinearOrder γ] {c c' : Cardinal.{u}}
+
+/-- `IsEta` is unchanged under the order dual. -/
+theorem dual_iff {c : Cardinal.{u}} {α : Type u} [LinearOrder α] : IsEta c α ↔ IsEta c αᵒᵈ := by
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
theorem dual_iff {c : Cardinal} {α : Type*} [LinearOrder α] : IsEta c α ↔ IsEta c αᵒᵈ := by
```

**Review by vihdzp — COMMENTED** [review]
Thank you for your patience! This last round is all nitpicks. Once you've reviewed all these comments and ran `lake exe mk_all`, let me know and I'll merge.

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 66]
```diff
@@ -0,0 +1,109 @@
...
+
+private theorem of_isEta_iso (e : α ≃o β) : IsEta c α → IsEta c β := fun H s t hs ht hsep ↦ by
+  obtain ⟨z, hz₁, hz₂⟩ := by
+    refine @H (e.symm '' s) (e.symm '' t) ?_ ?_ (fun a ⟨x, hx, ((hex: e.symm x = a))⟩ b
+      ⟨y, hy, (hey : e.symm y = b)⟩ ↦ by
+        simpa [e.lt_iff_lt,←hex,←hey] using hsep x hx y hy) <;>
+    simpa [mk_image_eq e.symm.injective]
+  refine ⟨e z, fun x hx ↦ ?_, fun y hy ↦ ?_⟩
+  · grind [e.apply_symm_apply,(e.lt_iff_lt).mpr,(e.lt_iff_lt).mpr (hz₁ (e.symm x) ⟨x, hx, rfl⟩)]
+  · simpa [e.apply_symm_apply] using (e.lt_iff_lt).mpr (hz₂ (e.symm y) ⟨y, hy, rfl⟩)
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean]:
```suggestion
private theorem of_isEta_iso (e : α ≃o β) : IsEta c α → IsEta c β := fun H s t ↦ by
  rw [← e.exists_congr_right]
  simpa [mk_image_eq e.symm.injective, e.symm_apply_lt, e.lt_symm_apply] using
    @H (e.symm '' s) (e.symm '' t)
```

Comment (YanYablonovskiy) [reply CombinatorialGames/Mathlib/EtaSet.lean]: Weirdly that one didn't work for me with:
```
Type mismatch: After simplification, term
  H
 has type
  #↑s < c → #↑t < c → (∀ a ∈ s, ∀ a_2 ∈ t, a < a_2) → ∃ z, (∀ a ∈ s, a < e z) ∧ ∀ a ∈ t, e z < a
but is expected to have type
  ∃ a, (∀ x ∈ s, x < e a) ∧ ∀ y ∈ t, e a < y
```
but this works
```lean4
private theorem of_isEta_iso (e : α ≃o β) : IsEta c α → IsEta c β := fun H s t ↦ by
  rw [← e.exists_congr_right]
  simpa +contextual [mk_image_eq e.symm.injective, e.symm_apply_lt, e.lt_symm_apply, *] using
    @H (e.symm '' s) (e.symm '' t) 
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 67]
```diff
@@ -0,0 +1,100 @@
...
+    (∀ x ∈ s, ∀ y ∈ t, x < y) → ∃ z, (∀ x ∈ s, x < z) ∧ (∀ y ∈ t, z < y)
+
+namespace IsEta
+
+open Order OrderType
+
+variable {α β γ : Type u} [LinearOrder α] [LinearOrder β] [LinearOrder γ] {c c' : Cardinal.{u}}
+
+/-- `IsEta` is unchanged under the order dual. -/
+theorem dual_iff {c : Cardinal} {α : Type*} [LinearOrder α] : IsEta c α ↔ IsEta c αᵒᵈ := by
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]: can you use the section variables here
```suggestion
theorem dual_iff : IsEta c α ↔ IsEta c αᵒᵈ := by
```

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 68]
```diff
@@ -0,0 +1,100 @@
...
+
+public import Mathlib.Algebra.Field.Rat
+public import Mathlib.Order.Types.Defs
+public import Mathlib.SetTheory.Ordinal.Basic
+public import Mathlib.Algebra.Order.Field.Basic
+public import Mathlib.Algebra.Order.Ring.Rat
+public import Mathlib.Data.Finset.DenselyOrdered
+public import Mathlib.Order.Interval.Set.Infinite
+
+@[expose] public section
```
Comment (plp127) [inline CombinatorialGames/Mathlib/EtaSet.lean]: this `@[expose]` could just go on the definition `IsEta`, no need to expose the whole section

File: CombinatorialGames/Mathlib/EtaSet.lean [hunk 69]
```diff
@@ -0,0 +1,101 @@
...
+-/
+module
+
+public import Mathlib.Algebra.Field.Rat
+public import Mathlib.Order.Types.Defs
+public import Mathlib.SetTheory.Ordinal.Basic
+public import Mathlib.Algebra.Order.Field.Basic
+public import Mathlib.Algebra.Order.Ring.Rat
+public import Mathlib.Data.Finset.DenselyOrdered
+public import Mathlib.Order.Interval.Set.Infinite
```
Comment (vihdzp) [inline CombinatorialGames/Mathlib/EtaSet.lean:12]:
```suggestion
public import Mathlib.Algebra.Field.Rat
public import Mathlib.Algebra.Order.Field.Basic
public import Mathlib.Algebra.Order.Ring.Rat
public import Mathlib.Data.Finset.DenselyOrdered
public import Mathlib.Order.Interval.Set.Infinite
public import Mathlib.Order.Types.Defs
public import Mathlib.SetTheory.Ordinal.Basic
```

**Review by vihdzp — COMMENTED** [review]
Please don't forget to run `lake exe mk_all`!
